Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-2.02261985878
[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.63124683738
[H:1][C:2]=[C:3]([H:4])[O:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],4.66808778076
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10].[H:1],5.01358611727
[H:1][C:2]([H:3])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.42174553191
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:7]=[O:8].[H:6],2.41816265035
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:5].[O:1]=[C:2]([H:3])[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.74364105263
[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])[H:10],-0.293659729733
[H:12].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.58458789758
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][H:9],1.30566233152
[H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-1.89382941397
[H:1][C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-5.1530356599400005
[H:8].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],-3.0443111753400003
[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10],-6.79361870276
[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7]>>[C:2]#[C:3][O:4][C:5][O:6][H:7].[H:1],5.85237537651
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12].[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-3.97703345465
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7]/[O:9][H:10].[H:8],4.83844869409
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2],6.41604994367
[H:1].[O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16],-4.61259955226
[O:1]=[C:2]([H:3])[C:4]1[O:5][C:6]1([H:7])[H:8]>>[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])[H:8],-0.75434457949
[H:1][C:2]#[C:3][C:4]#[C:6][C:7]([H:8])([H:9])[H:10].[H:5]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-1.6626915031
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],4.01249693909
[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-5.1092981666
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][H:8],5.58002775788
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],1.80436157207
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]=[C:9]([H:10])[H:11].[H:8],4.952897345249999
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13],0.27828127159000005
[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-8.62862625158
